US08313814B2
106.1 g of asaronic acid (2,4,5-trimethoxybenzoate) and 400 ml of toluene were measured in a IL three-mouthed flask equipped with a mechanical stirrer, thermometer, cooling pipe, and a dropping funnel, and then stirred at 80° C. Thereto, 40.1 ml of thionyl chloride was slowly added dropwise, and then stirred at 80° C. for 2 hours. After the reaction, the reaction solvent was removed by distillation with the use of an aspirator to obtain White solid. To White solid, 300 ml of hexane was added and vigorously stirred/dispersed, White solid was separated by suction filtration, and washed for 3 times with large amounts of hexane. Thus-obtained White solid was dried under vacuum at 60° C. for 4 hours to obtain target asaronic acid chloride as a white powder. (115.3 g, yield 99%).

reactant | asaronic acid (2,4,5-trimethoxybenzoate) | 106.1 g | COC1=C(C(=O)O)C=C(C(=C1)OC)OC.C(C=1C(OC)=CC(OC)=C(OC)C1)(=O)O | 2C10H12O5
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 40.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | hexane | 300 ml | CCCCCC | C6H14
product | asaronic acid chloride | yield 99% | C(C=1C(OC)=CC(OC)=C(OC)C1)(=O)Cl | C10H11ClO4
